US09238656B2
(1S,2S,3R,4R)-3-[6-Chloro-2-(1,3,5-trimethyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CLI)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (75.00 mg, 0.2553 mmol), 1,3,5-Trimethyl-1H-pyrazole-4-carbaldehyde (38.8 mg, 0.281 mmol), and Ammonium acetate (39.4 mg, 0.511 mmol) were reacted to produce 36.49 mg (37%) of the title compound. (300 MHz, DMSO-d6) 12.47 (s, 1H), 7.91 (s, 1H), 7.72 (s, 1H), 7.21 (s, 1H), 7.00 (d, J=9 Hz, 1H), 6.32 (m, 1H), 6.26 (m, 1H), 5.17 (t, J=17 Hz, 9 Hz, 1H), 3.73 (s, 3H), 2.85 (s, 1H), 2.77 (s, 1H), 2.57 (d, J=8 Hz, 1H), 2.47 (s, 3H), 2.35 (s, 3H), 2.24 (d, J=8 Hz, 1H), 1.38 (d, J=8 Hz, 1H). MS=412 (M+H), HPLC: 1.97 min. (G Method)

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-chloro-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.2553 mmol, 75.00 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Cl | C13H16ClN5O
reactant | 1,3,5-Trimethyl-1H-pyrazole-4-carbaldehyde | 0.281 mmol, 38.8 mg | CN1N=C(C(=C1C)C=O)C | C7H10N2O
reactant | Ammonium acetate | 0.511 mmol, 39.4 mg | C(C)(=O)[O-].[NH4+]
product | (1S,2S,3R,4R)-3-[6-Chloro-2-(1,3,5-trimethyl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 36.49 mg, 37% | ClC=1C(=C2C(=NC1)NC(=N2)C=2C(=NN(C2C)C)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H22ClN7O
